US06417193B1
N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,3-Diaminopropane
N-t-butyloxycarbonyl-1,3-diaminopropane (574 mg, 3.29 mmol) and 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride (903 mg, 3.29 mmol) were converted to 1.36 g of the title compound by the procedure of Preparation 1. (100%). EA calculated for: C19H23N3O4ClF: C, 55.41; H, 5.63; N, 10.20. Found: C, 55.17; H, 5.71; N, 9.99. MS(IS) m/z 412 (M+).

reactant | N-t-butyloxycarbonyl-1,3-diaminopropane | 3.29 mmol, 574 mg | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
reactant | 3-(2-chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride | 3.29 mmol, 903 mg | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
product | N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,3-Diaminopropane | 1.36 g | C(C)(C)(C)OC(=O)NCCCNC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C19H23ClFN3O4
